US07855202B2
2-(4-Fluorophenyl)-6-(3-fluoropyridin-4-yl)-5-pyridin-3-yl-3H-imidazo[4,5-b]pyridine
3″-Fluoro-3,2′:3′,4″-terpyridine-5′,6′-diamine (Intermediate 1,158 mg, 0.56 mmol), 4-fluorobenzoyl chloride (73.0 μL, 0.62 mmol) and pyridine (ca. 4 mL) were placed in a sealed tube. The solution was initially heated at 140° C. for 48 h and afterwards, at 160° C. for another 48 h. Then, the reaction mixture was cooled to room temperature, the pyridine was removed in vacuo, and the crude oil was purified by flash column chromatography (CH2Cl2/EtOH, 95:5) affording the title compound as a white solid (141 mg, 65%).

reactant | 3″-Fluoro-3,2′:3′,4″-terpyridine-5′,6′-diamine | 0.56 mmol, 1,158 mg | FC=1C=NC=CC1C=1C(=NC(=C(C1)N)N)C=1C=NC=CC1 | C15H12FN5
reactant | 4-fluorobenzoyl chloride | 0.62 mmol, 73.0 μL | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
solvent | pyridine | ca. 4 mL | N1=CC=CC=C1 | C5H5N
product | 2-(4-Fluorophenyl)-6-(3-fluoropyridin-4-yl)-5-pyridin-3-yl-3H-imidazo[4,5-b]pyridine | 141 mg, 65% | FC1=CC=C(C=C1)C1=NC=2C(=NC(=C(C2)C2=C(C=NC=C2)F)C=2C=NC=CC2)N1 | C22H13F2N5
